US08034812B2
Production of N-{3-[(2-{[(4-methylpiperazin-1-yl)acetyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide
Using N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide (120 mg, 0.244 mmol), 1-methylpiperazine (1 mL) and acetonitrile (2 mL) as starting materials and in the same manner as in Example 398, the title compound (67 mg, 50%) was obtained as a white powder.

reactant | N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 0.244 mmol, 120 mg | ClCC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C22H15ClF3N5O3
reactant | 1-methylpiperazine | 1 mL | CN1CCNCC1 | C5H12N2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | N-{3-[(2-{[(4-methylpiperazin-1-yl)acetyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 67 mg, 50% | CN1CCN(CC1)CC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C27H26F3N7O3
